US07432258B2
2-(6,7-dichloro-3-oxo-2,3-dihydro-4H-1,4-benzoxazin-4-yl)-N-[1-{2-fluoro-4′-[(methylsulfonyl)amino]-4-biphenylyl}-2-(4-morpholinyl)ethyl]-N-methylacetamide
To a room temperature solution under nitrogen containing 0.20 g of N-[1-(4-bromo-3-fluorophenyl)-2-(4-morpholinyl)ethyl]-2-(6,7-dichloro-3-oxo-2,3-dihydro-4H-1,4-benzoxazin-4-yl)-N-methylacetamide (0.348 mmols) in 3.5 mL of dry DMF was added 0.09 g of {4-[(methylsulfonyl)amino]phenyl}boronic acid (0.418 mmols), 0.014 g of (dppf)PdCl2 (0.017 mmols), and 0.70 mL of Na2CO3 solution (2M in water). The reaction mixture was heated to 80° C. After 18 h the reaction was cooled to ambient temperature and filtered through a 0.2 □m syringe filter. The resulting DMF solution was purified by preparative HPLC (Phenomenex 50×100 mm column, 90 mL/min flow rate, A: 0.1% TFA in acetonitrile B: 0.1% TFA in water, A: 10 to 100% over 15 min, UV detection at 215 nm) to give 0.022 g (9%) of the title compound as a light brown solid. MS (ES) m/e 666, 667 [M+H]+.

reactant | N-[1-(4-bromo-3-fluorophenyl)-2-(4-morpholinyl)ethyl]-2-(6,7-dichloro-3-oxo-2,3-dihydro-4H-1,4-benzoxazin-4-yl)-N-methylacetamide | 0.348 mmols | BrC1=C(C=C(C=C1)C(CN1CCOCC1)N(C(CN1C(COC2=C1C=C(C(=C2)Cl)Cl)=O)=O)C)F | C23H23BrCl2FN3O4
reactant | {4-[(methylsulfonyl)amino]phenyl}boronic acid | 0.418 mmols, 0.09 g | CS(=O)(=O)NC1=CC=C(C=C1)B(O)O | C7H10BNO4S
reactant | Na2CO3 | 2M, 0.70 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DMF | 3.5 mL | CN(C)C=O | C3H7NO
catalyst | (dppf)PdCl2 | 0.017 mmols, 0.014 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 2-(6,7-dichloro-3-oxo-2,3-dihydro-4H-1,4-benzoxazin-4-yl)-N-[1-{2-fluoro-4′-[(methylsulfonyl)amino]-4-biphenylyl}-2-(4-morpholinyl)ethyl]-N-methylacetamide | 0.022 g, 9% | ClC=1C(=CC2=C(N(C(CO2)=O)CC(=O)N(C)C(CN2CCOCC2)C2=CC(=C(C=C2)C2=CC=C(C=C2)NS(=O)(=O)C)F)C1)Cl | C30H31Cl2FN4O6S
